US06559172B1
Preparation of (4R*,5R*)-5-(4-Chloro-3-trifluoromethy-phenyl)-4-(toluene-4-sulfonyl)-4,5-dihydro-oxazole
In a manner analogous to Preparation 1, 4-chloro-3-(trifluoromethyl)benzaldehyde (0.31 g, 1.47 mmol), tosylmethylisocyanide (0.27 g, 1.40 mmol) and NaCN (6.9 mg, 0.14 mmol) gave the desired compound as a tan solid. MS(ES+) m/z 404.5 (M+H+).

reactant | 4-chloro-3-(trifluoromethyl)benzaldehyde | 1.47 mmol, 0.31 g | ClC1=C(C=C(C=O)C=C1)C(F)(F)F | C8H4ClF3O
reactant | tosylmethylisocyanide | 1.40 mmol, 0.27 g | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | NaCN | 0.14 mmol, 6.9 mg | [C-]#N.[Na+]
product | (4R*,5R*)-5-(4-Chloro-3-trifluoromethy-phenyl)-4-(toluene-4-sulfonyl)-4,5-dihydro-oxazole | ClC1=C(C=C(C=C1)[C@@H]1[C@H](N=CO1)S(=O)(=O)C1=CC=C(C=C1)C)C(F)(F)F | C17H13ClF3NO3S
